US08791119B2
To a solution of 5.00 g (36.3 mmol) of tetrahydro-2H-pyran-4-yl-amine hydrochloride (CAS 38041-19-9) in 300 ml of dichloromethane, cooled to −15° C. are added portionwise 13.2 g (65.4 mmol) of 4-nitrophenyl chloroformate (CAS 7693-46-1) and then 12.7 ml (72.7 mmol) of diisopropylethylamine. Stirring is continued at −0° C. for 2 hours, and 20 ml of saturated aqueous sodium hydrogen carbonate solution are then added. The organic phase is separated out by settling and dried over sodium sulfate and the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a column 80 g of silica gel, eluting with a mixture of 20% acetone in dichloromethane, to give 8.26 g of 4-nitrophenyl tetrahydro-2H-pyran-4-ylcarbamate in the form of a white powder.

reactant | tetrahydro-2H-pyran-4-yl-amine hydrochloride | 36.3 mmol, 5.00 g | Cl.O1CCC(CC1)N
reactant | 4-nitrophenyl chloroformate | 65.4 mmol, 13.2 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | diisopropylethylamine | 72.7 mmol, 12.7 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium hydrogen carbonate | 20 ml | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 4-nitrophenyl tetrahydro-2H-pyran-4-ylcarbamate | 8.26 g | O1CCC(CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H14N2O5
